US07199135B2
2-(4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE:
Example 42 was prepared from 2-(4-fluoro phenyl)propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methyl propanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.58 (s, 2H), 7.32–7.22 (m, 4H), 7.01–6.92 (m, 3H), 6.90–6.83 (m, 1H), 3.50 (q, 1H, J=7.1 Hz), 3.39–3.26 (m, 2H), 2.93–2.86 (m, 1H), 2.55–2.42 (m, 2H), 2.40–2.34 (m, 2H), 2.16 (s, 1H), 2.01–1.91 (m, 2H), 1.89–1.77 (m, 2H), 1.72–1.54 (m, 4H), 1.49 (d, 3H, J=7.0 Hz), 1.24 (d, 6H, J=7.0 Hz); ESMS m/e: 454.3 (M+H)+; Anal. Calc. for C27H36FN3O2.1.1 CH3OH: C, 69.04; H, 8.33; N, 8.60. Found: C, 69.06; H, 8.61; N, 8.79.

reactant | 2-(4-fluoro phenyl)propanoic acid | FC1=CC=C(C=C1)C(C(=O)O)C | C9H9FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methyl propanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
solvent | CH3OH | CO | CH4O
product | 2-(4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C | C27H36FN3O2
